US07714126B2
With a procedure similar to example 16 above, 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid [6-(ethyl-methyl-amino)-pyridin-3-yl]-amide was prepared from 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid and N2-ethyl-N2-methyl-pyridine-2,5-diamine. LCMS calcd for C19H17F3N4O2 (m/e) 390, obsd 391 (M+H).

reactant | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)O)C(F)(F)F | C11H6F3NO3
reactant | N2-ethyl-N2-methyl-pyridine-2,5-diamine | C(C)N(C1=NC=C(C=C1)N)C | C8H13N3
product | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid [6-(ethyl-methyl-amino)-pyridin-3-yl]-amide | C(C)N(C1=CC=C(C=N1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1)C | C19H17F3N4O2
